datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C/C(N=O)=N\[O-:10].O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCOCCOCCOCCOCCOCC2)c1>>C/C(N=O)=N\[O:10][H:20].O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCOCCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"C1CN(CC[NH2+:21][H:20])CCO1.CN1CCC[N:10](C)c2cccc3cccc1c23>>C1CN(CC[NH2:21])CCO1.CN1CCC[N+:10](C)([H:20])c2cccc3cccc1c23 10=20;20,21=21",
"CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12.COc1c(C=O)c(CO)c[n:10]c1C>>CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12.COc1c(C=O)c(CO)c[n+:10]([H:20])c1C 10=20;20,21=21",
"COc1cc2c(cc1O)CC[N:10]1Cc3c(ccc(OC)c3OC)CC21.O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)[O-])c1[O:21][H:20]>>COc1cc2c(cc1O)CC[N+:10]1([H:20])Cc3c(ccc(OC)c3OC)CC21.O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)[O-])c1[O-:21] 10=20;20,21=21",
"Nc1cccc(N)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1cccc(N)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(C(O)C[NH:10]C(C)CC2=C(C)C(C)(C)CC2)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(C(O)C[NH+:10](C(C)CC2=C(C)C(C)(C)CC2)[H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH2+]CCN(C)CC[NH2:10].NC(=O)c1cccc[n+:21]1[H:20]>>C[NH2+]CCN(C)CC[NH2+:10][H:20].NC(=O)c1cccc[n:21]1 10=20;20,21=21",
"CCCC[N:10]1CCCC1C.O=[N+]([O-])c1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1>>CCCC[N+:10]1([H:20])CCCC1C.O=[N+]([O-])c1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"Cc1n[nH]c2ccc([NH2:10])cc12.N#CC(C(=O)[O:21][H:20])C1CCCCC1>>Cc1n[nH]c2ccc([NH2+:10][H:20])cc12.N#CC(C(=O)[O-:21])C1CCCCC1 10=20;20,21=21",
"COc1ccc([S-:10])cc1.c1cc([OH+:21][H:20])c2cn[nH]c2c1>>COc1ccc([S:10][H:20])cc1.c1cc([OH:21])c2cn[nH]c2c1 10=20;20,21=21",
"CCCC[NH:10]c1ccccc1.[NH3+]CCCCCCCCCCCC(=O)[O:21][H:20]>>CCCC[NH+:10](c1ccccc1)[H:20].[NH3+]CCCCCCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"CNCCC[NH:10]C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CNCCC[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"COc1ccc([O-:10])c(CN(C)C)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc([O:10][H:20])c(CN(C)C)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=CC(=O)OCC[N+:21](CC)(CC)[H:20].Cc1cccc(C)c1[NH2:10]>>C=CC(=O)OCC[N:21](CC)CC.Cc1cccc(C)c1[NH2+:10][H:20] 10=20;20,21=21",
"CCCCNC(=O)[N-:10]S(=O)(=O)c1ccc(C)cc1.NCCNCC[NH2+:21][H:20]>>CCCCNC(=O)[N:10](S(=O)(=O)c1ccc(C)cc1)[H:20].NCCNCC[NH2:21] 10=20;20,21=21",
"Brc1cnc2c(ccc3cc(Br)c[n+:21]([H:20])c32)c1.S=C[N-:10]Cc1ccccc1>>Brc1cnc2c(ccc3cc(Br)c[n:21]c32)c1.S=C[N:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"O=C(CCCc1cccs1)[O-:10].O=C(CCc1ccco1)[O:21][H:20]>>O=C(CCCc1cccs1)[O:10][H:20].O=C(CCc1ccco1)[O-:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCC(C(=O)[O-])[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(N)[n+:21]([H:20])c1.c1ccc2c(c1)cnc1cc([O-:10])ccc12>>Cc1ccc(N)[n:21]c1.c1ccc2c(c1)cnc1cc([O:10][H:20])ccc12 10=20;20,21=21",
"NCCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[NH:10]CCc1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCc1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CSc1ccc2c(ccc[n:10]2)c1.Cc1ccc([N:21](N=C(C#N)C#N)[H:20])c([N+](=O)[O-])c1>>CSc1ccc2c(ccc[n+:10]2[H:20])c1.Cc1ccc([N-:21]N=C(C#N)C#N)c([N+](=O)[O-])c1 10=20;20,21=21",
"COc1cc(S(C)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.Nc1cc[n:10]c(N)n1>>COc1cc(S(C)(=O)=O)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.Nc1cc[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"NCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN[C@H]1C[C@@H]1[NH+:21](C)[H:20].C[NH+]1CCC[N:10](C)Cc2ccccc2OCCOc2ccccc2C1>>CN[C@H]1C[C@@H]1[NH:21]C.C[NH+]1CCC[N+:10](C)([H:20])Cc2ccccc2OCCOc2ccccc2C1 10=20;20,21=21",
"CSc1n(C)c2ncncc2[n+:21]1[H:20].Cc1cc([O-:10])ccc1C(C)C>>CSc1n(C)c2ncncc2[n:21]1.Cc1cc([O:10][H:20])ccc1C(C)C 10=20;20,21=21",
"CC(C#N)(Cc1ccccc1)C(=O)[O:21][H:20].C[N:10]1[C@H]2CC=C(C(=O)[O-])[C@@H]1CC2>>CC(C#N)(Cc1ccccc1)C(=O)[O-:21].C[N+:10]1([H:20])[C@H]2CC=C(C(=O)[O-])[C@@H]1CC2 10=20;20,21=21",
"COc1ccc2c(c1)c(N1CCOCC1)c1c([n+:21]2[H:20])CCC1.C[N+]1(CCCC(=O)[O-:10])CCCCC1>>COc1ccc2c(c1)c(N1CCOCC1)c1c([n:21]2)CCC1.C[N+]1(CCCC(=O)[O:10][H:20])CCCCC1 10=20;20,21=21",
"O=S(=O)([O-])c1c([O:21][H:20])ccc2[nH]ncc12.[S-]c1ncnc2nc[n-:10]c12>>O=S(=O)([O-])c1c([O-:21])ccc2[nH]ncc12.[S-]c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.Cn1c[nH+]c2cccc([NH2+:21][H:20])c21>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].Cn1c[nH+]c2cccc([NH2:21])c21 10=20;20,21=21",
